US07504410B2
Synthesis of N-[3-[[5-bromo-4-[[3-[[(ethylamino)thioxomethyl]amino]propyl]amino]-2-pyrimidinyl]amino]phenyl]-1-pyrrolidinecarboxamide
A solution of N-(3-((4-((3-aminopropyl)amino)-5-bromo-2-pyrimidinyl)amino)phenyl)-1-pyrrolidinecarboxamide (100 mg, 0.20 mmol) and DMF (5 mL) was treated with DIEA (0.1 mL, 0.6 mmol, 3eq) and ethylthioisocyanate (15 mg, 0.17 mmol, 0.9 eq). The resulting mixture was stirred at RT for 2 hr. Then the crude mixture was purified by HPLC using acetonitrile/water to afford the title compound (82 mg).

reactant | N-(3-((4-((3-aminopropyl)amino)-5-bromo-2-pyrimidinyl)amino)phenyl)-1-pyrrolidinecarboxamide | 0.20 mmol, 100 mg | NCCCNC1=NC(=NC=C1Br)NC=1C=C(C=CC1)NC(=O)N1CCCC1 | C18H24BrN7O
reactant | DIEA | 0.6 mmol, 0.1 mL, 3eq | CCN(C(C)C)C(C)C | C8H19N
reactant | ethylthioisocyanate | 0.17 mmol, 15 mg, 0.9 eq | C(C)SN=C=O | C3H5NOS
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[3-[[5-bromo-4-[[3-[[(ethylamino)thioxomethyl]amino]propyl]amino]-2-pyrimidinyl]amino]phenyl]-1-pyrrolidinecarboxamide | 82 mg | BrC=1C(=NC(=NC1)NC=1C=C(C=CC1)NC(=O)N1CCCC1)NCCCNC(=S)NCC | C21H29BrN8OS
